US07723330B2
Step C: Preparation of 1-(benzo[d]oxazol-2-yl)cyclopropanecarboxylic acid:
To a stirred solution of methyl 1-(benzo[d]oxazol-2-yl)cyclopropanecarboxylate (0.132 g, 0.6077 mmol) in 3 mL 3:2 THF:H2O at room temperature under nitrogen was added LiOH (0.02911 g, 1.215 mmol). After stirring at ambient temperature overnight the reaction was diluted to 30 mL with ethyl acetate and washed with 2N HCl, water and brine. The organics were dried (MgSO4), filtered and concentrated to a white solid (100 mg, 81% yield).

reactant | methyl 1-(benzo[d]oxazol-2-yl)cyclopropanecarboxylate | 0.6077 mmol, 0.132 g | O1C(=NC2=C1C=CC=C2)C2(CC2)C(=O)OC | C12H11NO3
reactant | THF | C1CCOC1 | C4H8O
reactant | H2O | O | H2O
reactant | LiOH | 1.215 mmol, 0.02911 g | [Li+].[OH-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(benzo[d]oxazol-2-yl)cyclopropanecarboxylic acid | 100 mg, 81% yield | O1C(=NC2=C1C=CC=C2)C2(CC2)C(=O)O | C11H9NO3
